US08541573B2
Preparation of 3-(naphthalene-2-sulfonamido)-3-phenylpropionic acid AC2
LiOH×H2O (0.25 g, 18 mmol) was added to a solution of the methyl 3-(naphthalene-2-sulfonamido)-3-phenylpropionate (3.3 g, 9 mmol) in a methanol/water mixture (3:1, 90 ml) at a reaction temperature of 0° C. The reaction mixture was stirred at RT for 16 h. The solvent was removed under reduced pressure, the residue was taken up in water and the mixture was washed with MC. The aqueous phase was then cautiously acidified with HCl (1 N) and extracted with ethyl acetate. The organic phase was washed with water and sat. NaCl solution and dried over Na2SO4. After removal of the solvent, the product was obtained in an adequate purity.

reactant | LiOH | [Li+].[OH-]
reactant | H2O | 18 mmol, 0.25 g | O | H2O
reactant | methyl 3-(naphthalene-2-sulfonamido)-3-phenylpropionate | 9 mmol, 3.3 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC(CC(=O)OC)C1=CC=CC=C1 | C20H19NO4S
solvent | methanol water | 90 ml | CO.O
product | 3-(naphthalene-2-sulfonamido)-3-phenylpropionic acid | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC(CC(=O)O)C1=CC=CC=C1 | C19H17NO4S
